US05972975
By analogy to Example 53, Step B, the anion of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine was alkylated with bromoethane to give 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-propylpyridine.

reactant | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | bromoethane | BrCC | C2H5Br
product | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-propylpyridine | CC1=CC(=NC(=C1)CCC)N1C(=CC=C1C)C | C15H20N2
